US06174877B1
2-(Imidazo[1,5-a]pyridin-3-yl)acetonitrile
2-Cyano-N-(2-pyridylmethyl)acetamide (15.51 g) was dissolved in chloroform (80 ml). To the solution was added phosphorus oxychloride (40 ml), which was refluxed for 4 hours. The reaction mixture was added to ice-water in limited amounts, to which was added a 25% aqueous ammonia (140 ml) to neutralize, which was then shaken. The aqueous layer was subjected to extraction with ethyl acetate (150 ml) twice. The organic layers were combined and dried over anhydrous magnesium sulfate, followed by concentration. The concentrate was purified by means of a column chromatography (carrier: silica gel, 250 g, developing solvent: ethyl acetate) to afford the title compound (5.00 g).

reactant | 2-Cyano-N-(2-pyridylmethyl)acetamide | 15.51 g | C(#N)CC(=O)NCC1=NC=CC=C1 | C9H9N3O
reactant | phosphorus oxychloride | 40 ml | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | ammonia | 140 ml | N | H3N
solvent | chloroform | 80 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-(Imidazo[1,5-a]pyridin-3-yl)acetonitrile | 5.00 g | C=1N=C(N2C1C=CC=C2)CC#N | C9H7N3
